US07504408B2
7-[3-(4-acetylpiperazin-1-yl)propoxyl-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-5-isopropoxyquinazolin-4-amine
A mixture of N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine (0.253 g, as a 1:1.3 wt.:wt. mixture with triphenylphosphine) and N-acetyl piperazine (0.538 g) was dissolved in 2-methoxyethanol. Sodium iodide (0.031 g) was added and the reaction mixture was heated at 110° C. with stirring for 4 hours. The reaction mixture was cooled to room temperature, diluted with dichloromethane (150 ml), washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica using increasingly polar mixtures of methanol in dichloromethane as eluent. There was thus obtained the title compound (0.105 g) as a white foam; NMR Spectrum: (CDCl3) 1.53 (d, 6H), 2.03 (quin, 2H), 2.09 (s, 3H), 2.46 (m, 4H), 2.56 (t, 2H), 3.46 (s, 3H), 3.48 (t, 2H), 3.63 (t, 2H), 4.16 (t, 2H), 4.35 (s, 2H), 4.82 (sept, 1H), 6.10 (s, 2H), 6.49 (d, 1H), 6.83 (d, 1H), 7.06 (s, 1H), 8.51 (s, 1H), 9.41 (s, 1H); Mass Spectrum: M+H+ 610/612.

reactant | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCCl | C25H25Cl2N3O5
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-acetyl piperazine | 0.538 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | Sodium iodide | 0.031 g | [I-].[Na+]
reactant | 2-methoxyethanol | COCCO | C3H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-(4-acetylpiperazin-1-yl)propoxyl-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-5-isopropoxyquinazolin-4-amine | 0.105 g | C(C)(=O)N1CCN(CC1)CCCOC1=NC2=CC=CC(=C2C(=N1)NC1=C(C=C(C=2OCOC21)C#CCOC)Cl)OC(C)C | C31H36ClN5O6
